US04621084
5-(Imidazo[1,2-a]pyrimidin-2-yl)-3-methyl-2-benzothiazolinone (2.7 g) was prepared in substantially the same manner as that of Example 30 from 5-(2-bromoacetyl)-3-methyl-2-benzothiazolinone (5.72 g) and 2-aminopyrimidine (5.7 g).

reactant | 5-(2-bromoacetyl)-3-methyl-2-benzothiazolinone | 5.72 g | BrCC(=O)C=1C=CC2=C(N(C(S2)=O)C)C1 | C10H8BrNO2S
reactant | 2-aminopyrimidine | 5.7 g | NC1=NC=CC=N1 | C4H5N3
product | 5-(Imidazo[1,2-a]pyrimidin-2-yl)-3-methyl-2-benzothiazolinone | 2.7 g | N=1C(=CN2C1N=CC=C2)C=2C=CC1=C(N(C(S1)=O)C)C2 | C14H10N4OS
